Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Planned admit for HiDAC re-induction
 
Major Surgical or Invasive Procedure:
Bone Marrow Biopsy

 
History of Present Illness:
Mr. ___ is a ___ y/oM with h/o MDS diagnosed ___ that
transformed to AML-M5 diagnosed on ___ ___. He underwent
induction with 7+3 of cytarabine and idarubacin on ___. He 
was
discharged on ___. Bone marrow bx/aspiration on ___ just
prior to discharge returned with relapsed AML. He is being
readmitted here for HiDAC. 

Mr. ___ most recent hospital course was also 
complicated
by aspergillous and nocardia pneumonia (diagnosed by CT guided
bx), for which he was treated with several antibiotics and
discharged on a simplified regimen of TMP-SMX 240-1200mg QID and
voriconazole 300mg PO q12. Dr. ___ the ___ ID
service will follow.  Last hospitalization also notable for
proven C.Diff treated with PO vancomycin.

In the interim, he has developed a new macular/papular pruritic
rash on his right arm/forearm, and some on contralateral hand.
Denies yard work. 

Otherwise, he has been doing well without evidence of fever,
chills, n/v/d. 
 
Past Medical History:
1)CAD s/p angioplasty in ___  
2)MDS since ___ on PO vancomycin
5)Nocardia, Aspergillous 

 
Social History:
___
Family History:
Coronary artery disease
 
Physical Exam:
VITALS: T 96.0 HR 78 BP 102/70 RR 20. Ht 76 inch. Wt 119.7 kg
GEN:The patient is in no distress and appears comfortable
SKIN:Macular/papular rash with some excoriation on arm just
proximal to elbow, extending down elbow onto forearm, then 
normal
skin with rash reappaearing on dorsal aspect of right hand near
thumb; rash also present on dorsal aspect of left hand in 
smaller
amount near thumb. On left forewarm is a constellation of
nonblanching rash, larger than petechiae. Two small red papules
in left lower quadrant. 
HEENT:No JVD, neck supple, No lymphadenopathy in cervical,
posterior, or supraclavicular chains noted.
CHEST:Lungs are clear without wheeze, rales, or rhonchi.
CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
ABDOMEN: No apparent scars. Non-distended, and soft without
tenderness
EXTREMITIES:no peripheral edema, warm without cyanosis
NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE
___, and BLE ___ both proximally and distally. No pronator 
drift.
Reflexes were symmetric. ___ going toes. Nl finger-nose test
bilaterally, and good heal to shin testing.

 
Pertinent Results:
ADMISSION LABS:
138  ___   AGap=18                             82
4.2  23  0.9                                2.3 \ 10.0 / 42 
estGFR: >75                                     / 30.1 \ 
Ca: 8.8 Mg: 1.6 P: 4.4                    N:20.6 L:60.8 M:10.8 
ALT: 6 AP: 69 Tbili: 0.3 Alb: 3.5          E:0 ___ Myelos: 1.0
AST: 17 LDH: 271                            Blasts: 6.9 Nrbc: 2  

.
Hypochr: NORMAL Anisocy: 1+ Poiklo: 1+ Macrocy: NORMAL Microcy:
1+ Polychr: 1+ Ovalocy: 1+ Tear-Dr: 1+ How-Jol: 1+ 
Plt-Est: Very Low
.
Source: Line-hickman
___: 15.4  PTT: 29.9  INR: 1.4 

CT Chest ___:
FINDINGS: Coronary artery calcification. The ascending aorta is 
mildly 
dilated at 4 cm at the level of the right pulmonary artery 
without recent 
change. Right IJ catheter with tip in the right atrium. Central 
pulmonary 
vasculature is unremarkable. 9-mm short axis anterior 
mediastinal node.  
Right paratracheal node measuring 8 mm in short axis is stable. 
Additional 
subcentimeter mesenteric nodes, also without significant change. 

  
The spleen is again noted to be enlarged. Small amount of 
calcified pleural plaque is seen along the right hemidiaphragm. 
  
Emphysematous changes in the lungs with subpleural blebs most 
prominent at the right lung apex. The patient also has cavity 
with a mildly thickened wall in the right upper lobe. Cavity is 
compatible with patient's history of fungal infection or 
nocardia. The cavity measures 5.5 x 3.3 cm, decreased from 6.2 x 
4.1 cm. There is adjacent pleural thickening which is also seen 
previously.  On the previous study, there was a nodule in the 
posterior right upper lobe, which currently appears as a 
thin-walled cavity measuring 1.9 cm on series 3, image 24. Again 
seen is a cavity in the left lower lobe with peripheral gas and 
moderate soft tissue. The cavitation is new since the previous 
study.  This nodule measures 3.8 x 3.1 cm, decreased from 
previous 3.8 x 4.4 cm. Mild additional changes in the spine. 
Additional calcified pleural plaque along the right lateral 
hemithorax. 
.
IMPRESSION:
Overall, mild improvement with increased cavitation in left 
lower lobe and right upper lobe nodules. Stable cavity in the 
right upper lobe near the apex. Findings are compatible with 
patient's history of fungal pneumonia.   
.
CT SINUS ___
FINDINGS: The right maxillary and sphenoid sinuses show mild 
mucosal 
thickening. There is scattered opacification of the ethmoid air 
cells and 
secretions in the right nasal passage. The remainder of the 
visualized 
paranasal sinuses and mastoid air cells remain normally aerated. 
The OMUs are patent bilaterally.The osseous structures are 
normal. There is a prominent vascular structure superior to the 
pterygoid muscle on the right, which may represent a prominent 
maxillary artery. 
.  
IMPRESSION: 
1. Mild mucosal sinus disease involving the maxillary and 
sphenoid sinuses on the right. 
2. Prominent vascular structure superior to the right pterygoid 
muscle, which may represent dilated maxillary artery. 
.  
Final Attending Comment: 
There is question of bony dehiscence/demineralization in the 
roof of the 
ethmoid sinus on the left with contiguous opacification of the 
ethmoid air 
cell.The possibility of fungal sinusitis cannot be 
excluded.Findings conveyed to Dr ___ possibility is 
meningoencephalocele and recommend correlation with MRI of the 
skull base/orbits for further evaluation. Discussed with ENT 
resident on call. 
.
___ Bone marrow Biopsy (prior admission)
SPECIMEN: BONE MARROW ASPIRATE AND CORE BIOPSY:
DIAGNOSIS: 
Hypercellular bone marrow with increased blasts suspicious for 
persistent/recurrent acute myelogenous leukemia, see note.

Note: Monoblasts are enumerated at 21% in the bone marrow 
aspirate.  There is multilineage dysplasia with atypical nuclear 
budding in the erythroid precursors and hypolobated 
megakaryocytes consistent with underlying MDS.  ___ case was 
discussed at the hematology malignancy board conference on 
___.  The previous bone marrow specimen (___) was 
reviewed in conjunction with this specimen.

ADDENDUM: AFB stains were performed at the request of the 
submitting physician and they are negative for acid fast 
bacilliforms.

KARYOTYPE: 46,XY[CP20] 
  
INTERPRETATION:  
No clonal cytogenetic aberrations were identified 
in 20 metaphases analyzed from this unstimulated  
specimen. This normal result does not exclude a 
neoplastic proliferation. 
 
Mosaicism and small chromosome anomalies may not be 
detectable using the standard methods employed. 
-------------------INTERPHASE FISH ANALYSIS, 100-300 
CELLS-----------------
nuc ___ 
 
Three hybridization signals were detected with 
the LSI D13___ Probe at 13q14.3 in ___ 
nuclei, which exceeds the normal range (up to 
1% trisomy) established for this probe in the 
Cytogenetics Laboratory at ___. 
 
This test was developed and its performance 
determined by the ___ Cytogenetics Laboratory  
as required by the ___ ___ regulations. It has not 
been cleared or approved by the ___. Food and Drug 
Administration. This test is used for clinical 
purposes. 
Interpreted by: ___, Ph.D. 
Final Result: ___ 

Specimen Type: BONE MARROW - CYTOGENETICS 
Date and Time Taken: ___ 3:00 ___ Date Processed: ___ 
Requesting Physician: ___. Location: INPATIENT 
REPORT PENDING 

___ 05:43AM  Labs Prior Discharge:
WBC  Hgb   Hct   Plt Ct 
5.2  10.4  29.9   57*2 
DIFFERENTIAL 
Neuts Bands Lymphs Monos Eos Baso Atyps Metas Myelos Blasts 
31*    0      25     42*  0    0    0    0      0      2*   
ANC: 1612
___ 15.9
PTT 33.4 
INR 1.4  
ENZYMES & BILIRUBIN
ALT  AST   LD(LDH) AlkPhos  TotBili
 14   14     295*    87       0.5   
Albumin Calcium  Phos   Mg 
  3.2*    8.9     3.9  1.5*    

 
Brief Hospital Course:
The patient is a ___ y.o male with a history of coronary artery 
disease and AML s/p 7+3 who presented for High Dose AraC 
reinduction after 7+3 did not induce remission on Day 14 Bone 
marrow.  
.
# AML RELAPSE: The patient received Ara C 3 g/m2 every 12 hours 
on days one, three, and five as re-induction chemotherapy.  He 
tolerated this chemotherapy well without any nausea, mouth 
sores, or signs of cerebellar toxicity.  Given his prolonged 
neutropenia following his last round of chemotherapy  and known 
lung infections he was kept in the hospital after receiving his 
HiDAC and as his counts began to fall. On D+9, the patient 
reached his nadir, with an ANC of 0 and platelet count of 9. His 
counts remained low up until day 19 raising concern for 
continued disease.  A bone marrow biopsy was performed on ___ 
(D+22) which showed residual disease.  Because of his impending 
discharge, the patient received 2 doses of Neupogen with a 
modest effect.  The day prior to discharge, the patient had an 
ANC of 1600 and a WBC of 5.2.  He was discharged without 
Neupogen, with plans for follow up with Dr. ___ Dr. 
___.
.
# NOCARDIA and ASPERGILLUS infections: The patient had 
aspergillus and nocardia infections that worsened during his 
neutropenia during his last chemotherapy.  Therefore on 
admission his PO regimen of Bactrim and voriconazole was 
broadened to Voriconazole, Meropenem, Moxifloxacin, and 
Micafungin. On ___, the patient experience neutropenic fever 
following Ara C therapy and vancomycin was added to his regimen. 
He remained afebrile from this time on, with only low grade 
temperatures during his hospitalization. Vancomycin was 
discontinued on ___. A repeat CT of his sinus and chest was 
performed to assess for the evolution of his Nocardia and 
aspergillus infections which showed interval improvement of his 
pulmonary processes, with increased cavitations.  His sinuses 
showed some mild mucosal sinus disease involving the right 
maxillary and sphenoid sinuses.  There was also question of bony 
dehiscence/demineralization in the roof of the ethmoid sinus on 
the left with contiguous opacification of the ethmoid air cell, 
however ENT felt that this was an artifact.  Prior to discharge, 
ID was consulted to determine changes of his antibiotic regimen 
and the patient was sent home on Bactrim and voriconazole.  
Infectious disease follow up with Dr. ___ was 
recommended two weeks post discharge however, this appointment 
could not be scheduled.  The patient was instructed to call Dr. 
___ for arrange this appointment.
.
# Epistaxis: On D+9, The patient experienced a significant nose 
bleed for which he required 5 units of platelets and 3 units of 
blood.  ENT was consulted but due to his immunocompromised 
state, the did not feel an intervention was required.  The 
patient's bleed resolved over 24 hours.  Nasal saline was 
recommended in order to prevent a nidus for further bleed.
.
# CLOSTRIDIUM DIFFICILE: The patient had C. Diff infection 
during his last hospitalization and has consistently been 
neutropenic and/or on antibiotics during that time.  Therefore 
he has been continued on PO vancomycin and will continue to be 
so until his immune recovery and he is off antibiotics.  He 
should follow up with the infectious disease clinic in 2 weeks 
for evaluation.
.
# RASH/CONTACT DERMATITIS: The patient had what appeared to be a 
benign macular/papular rash on admission.  The rash resolved 
with the use of a topical steroid cream.
.
# Coccyx Ulcer: On ___ the patient was noted to have a stage one 
decubitus ulcer of his coccyx.  Wound care was consulted and 
skin care was provided.  The patient was encouraged to ambulate 
and to avoid putting pressure on his coccyx.
.
# CAD- No active issues. 
.
# FEN- The patient was maintained on a neutropenic Diet with 
dietary supplements.  He received dietary counseling regarding 
diet supplements and maintenance of adequate caloric intake.  He 
was encouraged to continue the use of nutritional supplements at 
home.
 
Medications on Admission:
ATENOLOL 25mg qd  
BENZONATATE 100mg tid  
FILGRASTIM  
OMEPRAZOLE 20mg bid  
TRIMETHOPRIM-SULFAMETHOXAZOLE 3 tabs SS QID  
VANCOMYCIN 250mg QID  
VORICONAZOLE 300mg bid  

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Voriconazole 200 mg Tablet Sig: 1.5 Tablets PO Q12H (every 12 
hours).  
3. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
4. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*0*
6. Sodium Chloride 0.65 % Aerosol, Spray Sig: Three (3) Spray 
Nasal TID (3 times a day).  
7. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO every six (6) hours.
Disp:*120 Tablet(s)* Refills:*1*
8. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours).
Disp:*120 Capsule(s)* Refills:*1*
9. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO twice a 
day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
AML
C. Diff
Nocardia
Anxiety
.
Secondary Diagnoses:
CAD
GERD

 
Discharge Condition:
The patient was hemodynamically stable and without pain at the 
time of discharge.
WBC 4
ANC 760
Plt 61
Hct 29.5

 
Discharge Instructions:
You were admitted to receive chemotherapy for your leukemia.  
You tolerated this chemotherapy well, with minimal side effects. 
 
.
During your hospitalization, you had a severe nose bleed which 
required the transfusion of blood and platelets.  You have not 
required platelets for some time, however you should call your 
doctor if you start to have signs of bleeding from your nose or 
anywhere on your body.  You should continue to use a saline 
nasal spray several times a day to help prevent nasal irritation 
and to decrease the risk of future nose bleeds.
.
Your white blood cell count is low, which means you are at risk 
for infection.  You should continue to follow a diet of cooked 
or preserved foods as instructed by the nutritionist.  You can 
discuss this precaution with your doctors.  In addition, you 
should continue to use nutritional supplements such as Carnation 
instant breakfast with protein in order to help maintain a 
healty weight.
.
You will need to attend several follow up appointments: 
1) Dr. ___ on ___ 10:30 
am.  
2) Dr ___ at 12:45 on ___.
3) Dr. ___: You will need to schedule an appointment 
with
   Dr. ___ in 2 weeks.  Please call ___ to schedule 
this 
   appointment.
.
We have made several changes to your medications:
1) Vancomycin (Antibiotic)- we have decreased the dose of this 
medication from 250mg to 125mg.  You should continue to take 
this medication every 6 hours.
2) Trimethoprim-Sulfa (Bactrim)- This medication has been 
changed to a new dose.  You will now take the single strength 
tablets every 6 hours. 
3) We have stopped your neupogen shots. However, you may need 
them in the future.
4) We have given you 2 new prescriptions to help you with 
sleep(Ambien) and anxiety(Lorazepam). 
.
Please take all medications as directed.  In addition to the 
above medications, you should continue to take your atenolol 
(blood pressure) and benzaonatate (cough).
.
Please take your temperature daily and call your doctor if you 
develop a fever higher than 100.3.  You should also call your 
doctor or seek immediate medical attention if you develop 
chills, nausea, vomiting, abdominal pain, diarrhea, chest pain, 
shortness of breath, worsening cough or any other symptom of 
concern.
 
Followup Instructions:
___